Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
hyperglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP:
Name: ___. 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

___ yo M with poorly controlled DM2 with nephropathy, neuropathy, 
CKD III, HTN, who presents with hyperglycemia and R foot ulcer.  
He had recently fallen and broke bones in his L hand.  This was 
splinted.  He also noted a R foot ulcer.  He denies any new pain 
or drainage from the ulcer.  He denies f/c, CP, SOB, n/v/d, abd 
pain.  He denies new leg swelling.  He presented to this PCP and 
his ___ were found to be in the 400-500s.  He was referred into 
the ED.

10 point review of systems reviewed, otherwise negative except 
as listed above
 
Past Medical History:
- DM2 on insulin, HbA1c 14.7%, uncontrolled, with diabetic 
neuropathy  
- CKD stage 3  
- Right diabetic foot ulcer with history of sepsis ___  
- Anemia  
- Hypertension  
- Hypercholesterolemia  
- s/p Appendectomy  

 
Social History:
___
Family History:
Mother with colon cancer and hyperlipidemia. Father with type 2 
DM.
 
Physical Exam:
VS: AVSS
GEN: well appearing in NAD
HEENT: EOMI, PERRLA, anicteric sclera
Neck: supple no LAD
Heart: RRR no mrg
Lungs: CTAB no wheezes
Abd: soft, NT/ND +BS
Ext: warm, dry, no notable ascending erythema.  R plantar ___ 
met head ulceration measuring~1cm with fibrous base, 
hyperkeratotic border, minimal erythema. No drainage, no probe 
to bone, no purulence expressed. 
Skin: no rash
Neuro: no focal deficits
 
Pertinent Results:
___ 01:35AM URINE  HOURS-RANDOM
___ 01:35AM URINE  UHOLD-HOLD
___ 01:35AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:35AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-100 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:35AM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:15PM   GLUCOSE-462* UREA N-40* CREAT-3.0* 
SODIUM-129* POTASSIUM-5.2* CHLORIDE-95* TOTAL CO2-26 ANION 
GAP-13
___ 06:00PM   GLUCOSE-473* UREA N-42* CREAT-3.1* 
SODIUM-128* POTASSIUM-4.0 CHLORIDE-92* TOTAL CO2-24 ANION GAP-16
___ 06:00PM   estGFR-Using this
___ 06:00PM   WBC-12.1* RBC-3.83* HGB-10.4* HCT-30.6* 
MCV-80* MCH-27.2 MCHC-34.0 RDW-13.3 RDWSD-38.2
___ 06:00PM   NEUTS-74.3* LYMPHS-14.2* MONOS-6.5 EOS-3.3 
BASOS-0.9 IM ___ AbsNeut-8.96* AbsLymp-1.72 AbsMono-0.79 
AbsEos-0.40 AbsBaso-0.11*
___ 06:00PM   PLT COUNT-321
___ 06:00PM   ___ PTT-30.3 ___

FOOT XRAY:
FINDINGS:  
No acute fracture or traumatic malalignment. Extensive 
postsurgical and 
degenerative changes are re-demonstrated from ___. 
An oval 
lucency within the superficial soft tissues along the plantar 
aspect of the metatarsal heads seen only on the lateral view was 
not seen on the prior examination and may represent subcutaneous 
gas. 
  
IMPRESSION:  
A lucency in the superficial soft tissues along the plantar 
aspect of the foot is new and may represent subcutaneous gas. 

 
Brief Hospital Course:
___ with poorly controlled DM2, foot ulcer, presents with 
hyperglycemia and foot ulcer

Hyperglycemia/DM2 with neph/neuropathy:
Poorly controlled DM2 with past elevated A1C.  He may also have 
acute stress response from infection though there does not 
appear to be clear infection.  Another source of stress may be 
his recent fall and fracture.  his treatment is limited by his 
inability to realistically take more than Lantus.  ___ was 
consulted and he was maintained on Lantus with HISS.  Aic >13.  
Social factors limit his ability to take aggressive insulin 
regimen.  However, we convinced him to try HISS at home with a 
Humalog pen in addition to Lantus.  his ___ improved to 
100-200s on discharge.  ___ referral can be recommended

Foot ulcer, diabetic: XRay and podiatry consult reviewed. 
Hand fracture: Casted.
- Decided to continue Levofloxacin previously prescribed to 
complete full course.  Given his CKD his dose was renally 
adjusted to 500mg q48

ARF on CKD III: Likely pre-renal due to hyperglycemia.  Improved 
with hydration.

Essential HTN: Continued home regimen on discharge

 
Medications on Admission:
Lantus 55 units daily
Lipitor 40mg daily
Amlodipine 10mg daily
Lisinpril 10mg daily
MVI
Aspirin 81mg daily

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Lisinopril 10 mg PO DAILY 
5. Glargine 40 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
6. Levofloxacin 500 mg PO Q48H 
Take 500mg (2x250mg) tablets every other day starting ___ 
through ___ 
RX *levofloxacin 500 mg 1 tablet(s) by mouth every other day 
Disp #*4 Tablet Refills:*0
7. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous QAC 

___ units with meals according to your sliding scale 
RX *insulin lispro [Humalog KwikPen] 100 unit/mL ___ units 
SubQ qAC (with meals) Disp #*1 Syringe Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Type 2 diabetes mellitus uncontrolled with nephropathy
Foot ulcer
CKD stage III

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with high blood sugars and a right foot ulcer. 
 This was treated by the podiatry team.  Please continue daily 
dressing changes.  Please take your antibiotics as prescribed.  
In addition, we recommend that you begin short acting insulin 
when you eat depending on the sliding scale.  Please follow up 
closely with your PCP and contact ___ if you wish to 
be seen there.

Please note your Lantus dose has been decreased while you are 
taking your sliding scale short acting insulin,

Please continue your Levofloxacin at 500mg doses every other day 
because of your kidney function.  Please take your 250mg pills
 
Followup Instructions:
___